US08084623B2
2-Iodoquinoline was prepared according to the procedure of Kimber, et. al. (Tetrahedron 2000, 56, 3575). To a solution of 2-chloroquinoline (10.0 g, 61.5 mmol) in CH3CN (100 mL) was added sodium iodide (14 g, 92.3 mmol) and acetyl chloride (8.8 mL, 123 mmol). The reaction mixture was stirred at 100° C. for 5 hours, then cooled to room temperature and quenched with 10% aqueous K2CO3 (100 mL) and 5% aqueous NaHSO3 (50 mL). The aqueous layer was extracted twice with dichloromethane then the combined organic extracts were dried over MgSO4, filtered and concentrated under reduced pressure. The residue was purified by flash chromatography (0% to 20% EtOAc in hexanes) to provide 9.7 g (70%) of 2-iodoquinoline as a yellow solid.

reactant | 2-chloroquinoline | 61.5 mmol, 10.0 g | ClC1=NC2=CC=CC=C2C=C1 | C9H6ClN
reactant | sodium iodide | 92.3 mmol, 14 g | [I-].[Na+]
reactant | acetyl chloride | 123 mmol, 8.8 mL | C(C)(=O)Cl | C2H3ClO
solvent | CH3CN | 100 mL | CC#N | C2H3N
product | 2-iodoquinoline | 9.7 g, 70% | IC1=NC2=CC=CC=C2C=C1 | C9H6IN
